US07776857B2
Step 3: 5-[(5-Methoxy-pyridin-3-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione
A two-necked RBF equipped with a reflux condenser was charged with Meldrum's acid (14.4 g, 100 mmol) and trimethylorthoformate (100 mL). The reaction mixture was heated at 100-105° C. for 2 h. 5-amino-3-methoxy pyridine (12.5 g, 100 mmol) was added to the reaction mixture and heating was continued for an additional 4 h at the same temperature. The reaction mixture was allowed to cool to RT, diluted with hexane and filtered to obtain the product as light yellow solid.

reactant | Meldrum's acid | 100 mmol, 14.4 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | trimethylorthoformate | 100 mL | COC(OC)OC | C4H10O3
reactant | 5-amino-3-methoxy pyridine | 100 mmol, 12.5 g | NC=1C=C(C=NC1)OC | C6H8N2O
solvent | hexane | CCCCCC | C6H14
product | 5-[(5-Methoxy-pyridin-3-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | COC=1C=C(C=NC1)NC=C1C(OC(OC1=O)(C)C)=O | C13H14N2O5
